US04272437
trans 3-phthalimidomethyl-4-tritylthio-2-azetidinone
A solution of trans 3-aminomethyl-4-tritylthio-2-azetidinone (13.9 g, 37.2 mmol) and N-carbethoxyphthalimide (8.3 g, 37.9 mmol) in benzene (200 ml) was heated under reflux for 15 h. The solvent was evaporated in vacuo and the residue crystallized from ether to give 17.4 g (93%) of the title compound; mp 172°-3° C.; Anal. calcd for C31H24N2O3S: C 73.78, H 4.79, N 5.55, found: C 73.92, H 4.87, N 5.49; ir (CHCl3) νmax : 1770 and 1715 cm-1 ; 1Hmr (CDCl3) δ: 7.8 (4H, m), 7.3 (15H, m), 4.45 (1H, d, J=2 Hz), 3.3-4.1 (3H, m) and 3.3-4.6 ppm (1H, m).

reactant | trans 3-aminomethyl-4-tritylthio-2-azetidinone | 37.2 mmol, 13.9 g | NC[C@@H]1C(N[C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H22N2OS
reactant | N-carbethoxyphthalimide | 37.9 mmol, 8.3 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | trans 3-phthalimidomethyl-4-tritylthio-2-azetidinone | 17.4 g, 93% | C1(C=2C(C(N1C[C@@H]1C(N[C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)=CC=CC2)=O | C31H24N2O3S
